Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:11][O:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12],-3.48412397894
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-8.29905178
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][H:4],5.583198160419999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:12][H:13],2.77076767355
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:6],3.3623132057200005
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.8547076796300006
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6],3.67717240775
[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.7903066771400002
[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-1.03919501187
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[H:9],2.41703917956
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.63508213611
[H:13].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.28205617795
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.78158642841
[H:1][O:2][C:3]#[C:4][C:7]([H:8])=[C:9]([H:10])[H:11].[O:5][H:6]>>[H:1][O:2][C:3][C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.38416403088
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:11][H:12],3.86150902703
[H:1][O:2].[O:3]=[C:4]([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.6011721637399998
[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5],3.40254523005
[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-6.9404856161399975
[C:6]([H:7])([H:8])[H:9].[O:1][C:2][C:3]#[C:4][O:5]>>[O:1]=[C:2][C:3](=[C:4]=[O:5])[C:6]([H:7])([H:8])[H:9],-1.05194457763
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:11]([H:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([O:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.830405131488
[C:7]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-7.42615693773
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13],-4.97412051536
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.93784585195
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.25013970444
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[O:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-1.61230045509
[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:3]1>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.62938943554
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],0.0973716798394
[H:12].[H:1][O:2][C@@:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.63465266799
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],0.878780433949
